US08026257B2
(±)-1-(5-Fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol.
To a solution of 5-fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde (1.53 g, 5.2 mmol) in tetrahydrofuran (32 mL) at −78° C. was added methyl magnesiumbromide (3M in diethyl ether, 3.46 mL, 10.4 mmol). The reaction was allowed to gradually warm in the ice bath (ca. 2 h) to 0° C. The reaction which had been a suspension became a solution. The reaction was quenched by addition of saturated ammonium chloride and poured into diethyl ether. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated to give 1.59 g (99%) as an yellow oil. 1H-NMR (CDCl3, 500 MHz) δ 8.05(s, 1H), 7.15(m, 1H), 7.05(m, 1H), 5.68(s, 2H), 5.33(q, J=5 Hz, 1H), 3.63(m, 2H), 1.68 (d, J=10.0 Hz, 3H), 0.93(m, 2H), −0.03(s, 9H); 13C-NMR (CDCl3, 126MHz) δ 58.7 (d, J=960 Hz), 144.4, 137.7, 122.9, 121.9, 113.5, 113.3, 101.6, 101.4, 81.9, 68.0, 67.6, 25.7, 23.3, 17.9, −1.38; Mass spec.: 311.33 (MH)+.

reactant | 5-fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carbaldehyde | 5.2 mmol, 1.53 g | FC1=CC2=CN(N=C2C(=C1)C=O)COCC[Si](C)(C)C | C14H19FN2O2Si
reactant | methyl magnesiumbromide | 10.4 mmol, 3M, 3.46 mL | C[Mg]Br
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
product | (±)-1-(5-Fluoro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol | FC1=CC2=CN(N=C2C(=C1)C(C)O)COCC[Si](C)(C)C | C15H23FN2O2Si
